US05977105
d) (±)-1-(3'-Methoxybiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol
Prepared according to the method described in Example 24b) from (±)-α-(chloromethyl)-3-pyridinepropanol (1.90 g), 3'-methoxybiphenyl-4-ol (2.05 g), ethanol (40 ml) and aqueous sodium hydroxide (2.1 M, 5 ml). After the reaction was complete it was concentrated under reduced pressure and the residue partitioned between ethyl acetate and water. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was twice purified by column chromatography over silica eluting with dichloromethane:ethyl acetate as an oil (1.35 g). A white solid was obtained after trituration with ether:hexane.

reactant | (±)-α-(chloromethyl)-3-pyridinepropanol | 1.90 g | ClCC(CCC=1C=NC=CC1)O | C9H12ClNO
reactant | 3'-methoxybiphenyl-4-ol | 2.05 g | COC=1C=C(C=CC1)C1=CC=C(C=C1)O | C13H12O2
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 2.1 M, 5 ml | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
product | (±)-1-(3'-Methoxybiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | COC=1C=C(C=CC1)C1=CC=C(C=C1)OCC(CCC=1C=NC=CC1)O | C22H23NO3
